US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (5.0 g, 13.05 mmol) with 2,4-dichlorophenylboronic acid (3.73 g, 19.57 mmol), dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.512 g, 0.652 mmol), and potassium carbonate (4.51 g, 32.62 mmol) generally according to the procedure described for Intermediate 37 provided 4.5 g (75%) of (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a yellow oil. Anal. calcd. for C22H18Cl2O4S: C, 58.8; H, 4.04. Found: C, 59.01; H, 4.09.

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 13.05 mmol, 5.0 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | 2,4-dichlorophenylboronic acid | 19.57 mmol, 3.73 g | ClC1=C(C=CC(=C1)Cl)B(O)O | C6H5BCl2O2
reactant | potassium carbonate | 32.62 mmol, 4.51 g | C([O-])([O-])=O.[K+].[K+]
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.652 mmol, 0.512 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-[7-(2,4-dichlorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 4.5 g, 75% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=C(C=C2)Cl)Cl | C22H18Cl2O4S
